US08557876B2
A 100 mL reaction flask is charged with 5,5,8,8-tetramethyl-3,4,5,6,7,8-hexahydro-2H-naphthalen-1-one (prepared as described in U.S. Pat. Nos. 3,927,083 and 2,912,462) (10 g, 0.048 mol), formamidine acetate (25 g, 0.24 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 7,7,10,10-tetramethyl-5,6,7,8,9,10-hexahydro-benzo[h]quinazoline (˜5 g) is obtained.

reactant | 5,5,8,8-tetramethyl-3,4,5,6,7,8-hexahydro-2H-naphthalen-1-one | 0.048 mol, 10 g | CC1(C=2CCCC(C2C(CC1)(C)C)=O)C | C14H22O
reactant | formamidine acetate | 0.24 mol, 25 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 7,7,10,10-tetramethyl-5,6,7,8,9,10-hexahydro-benzo[h]quinazoline | ˜5 g | CC1(CCC(C2=C1CCC=1C=NC=NC21)(C)C)C | C16H22N2
